US04406690
10% Sodium hydroxide (8 ml) is added to methyl N-[5-(4-chlorobenzyloxy)-2-pyridyl]carbamate (59 mg, 0.20 mmol), and the mixture is heated rapidly to 85°. About 4 ml of methanol is added to the mixture after it has been heated for 2 hours. Heating is continued, and after another hour about 4 ml more of methanol is added to the mixture. Heating at 85° is continued overnight. The reaction is then cooled, and the methanol is rotoevaporated off. The reaction is poured into water and extracted with chloroform. The organic phase is washed with water and with brine to yield 2-amino-5-(4-chlorobenzyloxy)pyridine.

reactant | Sodium hydroxide | 8 ml | [OH-].[Na+]
reactant | methyl N-[5-(4-chlorobenzyloxy)-2-pyridyl]carbamate | 0.20 mmol, 59 mg | ClC1=CC=C(COC=2C=CC(=NC2)NC(OC)=O)C=C1 | C14H13ClN2O3
reactant | methanol | 4 ml | CO | CH4O
solvent | water | O | H2O
product | 2-amino-5-(4-chlorobenzyloxy)pyridine | NC1=NC=C(C=C1)OCC1=CC=C(C=C1)Cl | C12H11ClN2O
